US04673674
(c) 2-Chloro-N-methyl-N-[2-(3-phenyl-1H-indol-2-yl)ethyl]acetamide
A solution of 17.5 ml chloroacetyl chloride in 100 ml chloroform is added dropwise within 15 minutes to a solution of 50.1 g N-methyl-3-phenyl-1H-indol-2-ethanamine and 30.7 ml triethylamine in 500 ml chloroform. After 30 minutes the mixture is made alkaline with aqueous ammonia. The organic phase is separated, washed with water and dried. Evaporation of the solvent gives the heading compound, m.p. 135°-138° (from methylene chloride/ether).

reactant | chloroacetyl chloride | 17.5 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | N-methyl-3-phenyl-1H-indol-2-ethanamine | 50.1 g | CNCCC=1NC2=CC=CC=C2C1C1=CC=CC=C1 | C17H18N2
reactant | triethylamine | 30.7 ml | C(C)N(CC)CC | C6H15N
reactant | ammonia | N | H3N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Chloro-N-methyl-N-[2-(3-phenyl-1H-indol-2-yl)ethyl]acetamide | ClCC(=O)N(CCC=1NC2=CC=CC=C2C1C1=CC=CC=C1)C | C19H19ClN2O
